US05840732
Synthesis of 3-[4-(2-aminopyridin-3-yloxy)butyl]oxazolidine-2,4-dione
Using 15.05 g (75 mmol) of 2-amino-3-(4-chlorobutyloxy)pyridine, 10.44 g (75 mmol) of oxazolidine-2,4-dione potassium salt and 11.24 g (75 mmol) of sodium iodide, the same procedure as in Reference Example 11 was followed, to yield 12.34 g (62.0%, yellow powder) of the desired product.

reactant | 2-amino-3-(4-chlorobutyloxy)pyridine | 75 mmol, 15.05 g | NC1=NC=CC=C1OCCCCCl | C9H13ClN2O
reactant | oxazolidine-2,4-dione potassium salt | 75 mmol, 10.44 g | [K].O1C(NC(C1)=O)=O
reactant | sodium iodide | 75 mmol, 11.24 g | [I-].[Na+]
product | 3-[4-(2-aminopyridin-3-yloxy)butyl]oxazolidine-2,4-dione | NC1=NC=CC=C1OCCCCN1C(OCC1=O)=O | C12H15N3O4
